US06723735B1
6-Bromo-3-[3-(morpholin-4-ylmethyl)phenyl]-3H-imidazo[4,5-b]pyridine was prepared from N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(morpholin-4-ylmethyl)phenyl]amine as described in Example 1. Maleate salt, cream-coloured powder, m.p. 176-178° C. (from ethyl acetate); δH (400 MHz, d6-DMSO @ 340K) 2.64-2.68 (4H, m), 3.68-3.72 (4H, m), 4.00 (2H, s), 6.13 (2H, s), 7.51 (1H, d, J 8), 7.64 (1H, t, J 8), 7.89 (1H, d, J 8), 7.94 (1H, s), 8.47 (1H, d, J 2), 8.52 (1H, d, J 2), 8.89 (1H, s); m/z (ES+) 373 and 375 (M++H).

reactant | N-(5-bromo-3-nitropyridin-2-yl)-N-[3-(morpholin-4-ylmethyl)phenyl]amine | BrC=1C=C(C(=NC1)NC1=CC(=CC=C1)CN1CCOCC1)[N+](=O)[O-] | C16H17BrN4O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-3-[3-(morpholin-4-ylmethyl)phenyl]-3H-imidazo[4,5-b]pyridine | BrC=1C=C2C(=NC1)N(C=N2)C2=CC(=CC=C2)CN2CCOCC2 | C17H17BrN4O
